US07220856B2
To a stirred solution of 3-chloroaniline (40.8 g, 320 mmol) in MeOH (500 mL) at rt was added dimethyl acetylene dicarboxylate (50 g, 352 mmol). After addition, the reaction was kept at reflux for 2 h, then cooled to rt. After evaporating methanol in vacuo, the resulting crude adduct was dissolved in Ph2O (160 mL), and was added dropwise to a hot solution of Ph2O (800 mL) in a three-neck flask at 250° C. The reaction mixture was kept at 250° C. for an additional 30 min, and was cooled to rt. The reaction mixture was diluted with hexane, and the product precipitated. The crude mixture was collected by filtration (washed with hexane and ether). This mixture (78 g) was re-dissolved in pyridine (468 mL) (Note: the other solvent for re-crystallization is acetic acid, and the ratio of crude product to acetic acid is 1:6 based on weight), and kept at reflux for about 30 min. After cooling to rt, the desired product was collected by filtration (washed with ether). The solid was air dried overnight to give 35 g (46%) of 7-chloro-4-hydroxy-2-quinolinecarboxylic acid methyl ester. LC-MS: 237 (M++1). 1H NMR (DMSO-d6): 63.98 (s, 3H), 6.6 (s, 1), 7.38 (d, 1H), 7.96 (s, 1H), 8.04 (d, 1), 12.1 (s, 1).

reactant | 3-chloroaniline | 320 mmol, 40.8 g | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | dimethyl acetylene dicarboxylate | 352 mmol, 50 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | MeOH | 500 mL | CO | CH4O
product | 7-chloro-4-hydroxy-2-quinolinecarboxylic acid methyl ester | 35 g, 46% | COC(=O)C1=NC2=CC(=CC=C2C(=C1)O)Cl | C11H8ClNO3
